US08207208B2
Step B: {[(2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazol-5-yl)carbonyl]oxy}acetic acid
2-Ethoxy-2-oxoethyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate (1130 mg, 1.48 mmol) was dissolved in concentrated hydrochloric acid (24 mL). The solution was stirred at 100° C. for 30 minutes. The solution was washed with diethyl ether (2×) and the aqueous layer was concentrated in vacuo. The residue was used crude in the following step. LC-MS: m/z 495.0 (M+H).

reactant | 2-Ethoxy-2-oxoethyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | 1.48 mmol, 1130 mg | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OCC(=O)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H41ClN6O4
solvent | hydrochloric acid | 24 mL | Cl | ClH
product | {[(2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazol-5-yl)carbonyl]oxy}acetic acid | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OCC(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H23ClN6O4
